US05198438
Preparation of 2-[(N-triphenylmethyltetrazol-5-yl]thiophene.(scheme II 3, compound 3a, Y=S)
To a solution of 2-cyanothiophene (1.4 g; 12.8 mmol) in dry toluene (10 ml) was added Me3SnN3 (2.8 g; 13.65 mmol). The mixture was stirred at reflux under N2 for 12 hours. The reaction was cooled to room temperature diluted with CH2Cl2 and washed with 2N HCl soln and H2O. The organic was dried over anhydrous MgSO4 and concentrated in vacuo. The residue, containing the free tetrazole, was dissolved in CH2Cl2 (10 mL) and Ph3CCl (3.2 g; 0.9 equiv.) and NEt3 (3.6 mL) were added. After 20 minutes the mixture was diluted with Et2O/EtOAc and washed with 1N NaOH, 10% citric acid and brine. The organic was dried over anhydrous MgSO4 and concentrated in vacuo. The product was purified by recrystallization from hexanes. The titled compound was isolated in 80% yield, Rf=0.33 (10:1 hex/EtOAc).

reactant | 2-cyanothiophene | 12.8 mmol, 1.4 g | C(#N)C=1SC=CC1 | C5H3NS
reactant | Me3SnN3 | 13.65 mmol, 2.8 g | [Sn](C)(C)(C)N=[N+]=[N-]
reactant | Ph3CCl | 3.2 g, 0.9 equiv. | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | NEt3 | 3.6 mL | CCN(CC)CC | C6H15N
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | Et2O EtOAc | CCOCC.CCOC(=O)C
product | (N-triphenylmethyltetrazol-5-yl]thiophene | 80% yield | C1(=CC=CC=C1)C(N1N=NN=C1C=1SC=CC1)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H18N4S
